### PR TITLE
feat: tree map lemmas for `keys` and `toList`

### PR DESCRIPTION
**Pull request by datokrat**
This PR provides lemmas about the tree map functions `keys` and `toList` and their interactions with other functions for which lemmas already exist. Moreover, a bug in `foldr` (calling `foldlM` instead of `foldrM`) is fixed.

### CODE REVIEW

**Comment by datokrat** [comment]
I won't change the `foldr` signature in this PR; I'll do this together with the impending `foldr` lemma PR that should arrive later.

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 1]
```diff
@@ -1465,4 +1466,109 @@ theorem getThenInsertIfNew?!_snd [TransOrd α] (h : t.WF) {k : α} {v : β} :
...
+    (h : t.WF) :
+    t.toList.find? (compare ·.1 k == .eq) = some ⟨k, v⟩ ↔ t.get? k = some v := by
+  simp_to_model using List.find?_eq_some_iff_getValueCast?_eq_some
+
+theorem find?_toList_eq_none_iff_contains_eq_false [TransOrd α] {k : α} (h : t.WF) :
+    t.toList.find? (compare ·.1 k == .eq) = none ↔ t.contains k = false := by
+  simp_to_model using List.find?_eq_none_iff_containsKey_eq_false
+
+theorem find?_toList_eq_none_iff_not_mem [TransOrd α] {k : α} (h : t.WF) :
+    t.toList.find? (·.1 == k) = none ↔ ¬ k ∈ t := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean:1517]: Is this using the `BEq` instance derived from the `Ord` instance? Should this be
```suggestion
    t.toList.find? (compare ·.1 k == .eq) = none ↔ ¬ k ∈ t := by
```
like above?

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean [hunk 2]
```diff
@@ -1465,4 +1466,109 @@ theorem getThenInsertIfNew?!_snd [TransOrd α] (h : t.WF) {k : α} {v : β} :
...
+theorem length_keys [TransOrd α] (h : t.WF) :
+    t.keys.length = t.size := by
+  simp_to_model using List.length_keys_eq_length
+
+theorem isEmpty_keys :
+    t.keys.isEmpty = t.isEmpty  := by
+  simp_to_model using List.isEmpty_keys_eq_isEmpty
+
+theorem contains_keys [instBEq : BEq α] [LawfulBEq α] [LawfulBEqOrd α] [TransOrd α] {k : α} (h : t.WF) :
+    t.keys.contains k = t.contains k := by
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Internal/Lemmas.lean:1478]: I see that the typeclasses are tricky here and I think you have found a very nice solution! Is there any chance of dropping the `LawfulBEq` assumption? As far as  I can tell, the lemmas you invoke should only need `EquivBEq`, and this in turn should follow for both relevant `BEq` instances from `LawfulBEqOrd` and `TransOrd`.

File: src/Std/Data/DTreeMap/Lemmas.lean [hunk 3]
```diff
@@ -922,4 +922,118 @@ theorem getThenInsertIfNew?_snd [TransCmp cmp] {k : α} {v : β} :
...
+theorem mem_keys [LawfulEqCmp cmp] [TransCmp cmp] {k : α} :
+    k ∈ t.keys ↔ k ∈ t :=
+  Impl.mem_keys t.wf
+
+theorem distinct_keys [TransCmp cmp] :
+    t.keys.Pairwise (fun a b => ¬ cmp a b = .eq) :=
+  Impl.distinct_keys t.wf
+
+@[simp]
+theorem map_sigma_fst_toList_eq_keys :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Lemmas.lean:950]:
```suggestion
theorem map_sigmaFst_toList_eq_keys :
```
or
```suggestion
theorem map_fst_toList_eq_keys :
```
This is unfortunately also wrong for the hash map.

File: src/Std/Data/DTreeMap/Lemmas.lean [hunk 4]
```diff
@@ -922,4 +922,118 @@ theorem getThenInsertIfNew?_snd [TransCmp cmp] {k : α} {v : β} :
...
+    t.toList.isEmpty = t.isEmpty :=
+  Impl.isEmpty_toList
+
+@[simp]
+theorem mem_toList_iff_get?_eq_some [TransCmp cmp] [LawfulEqCmp cmp] {k : α} {v : β k} :
+    ⟨k, v⟩ ∈ t.toList ↔ t.get? k = some v :=
+  Impl.mem_toList_iff_get?_eq_some t.wf
+
+theorem find?_toList_eq_some_iff_get?_eq_some [TransCmp cmp] [LawfulEqCmp cmp] {k : α} {v : β k}
+    : t.toList.find? (cmp ·.1 k == .eq) = some ⟨k, v⟩ ↔ t.get? k = some v :=
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Lemmas.lean:970]:
```suggestion
theorem find?_toList_eq_some_iff_get?_eq_some [TransCmp cmp] [LawfulEqCmp cmp] {k : α} {v : β k} :
    t.toList.find? (cmp ·.1 k == .eq) = some ⟨k, v⟩ ↔ t.get? k = some v :=
```

File: src/Std/Data/DTreeMap/Lemmas.lean [hunk 5]
```diff
@@ -922,4 +922,118 @@ theorem getThenInsertIfNew?_snd [TransCmp cmp] {k : α} {v : β} :
...
+theorem distinct_keys_toList [TransCmp cmp] :
+    t.toList.Pairwise (fun a b => ¬ cmp a.1 b.1 = .eq) :=
+  Impl.distinct_keys_toList t.wf
+
+namespace Const
+
+variable {β : Type v} {t : DTreeMap α β cmp}
+
+@[simp]
+theorem map_prod_fst_toList_eq_keys :
```
Comment (TwoFX) [inline src/Std/Data/DTreeMap/Lemmas.lean:991]:
```suggestion
theorem map_prodFst_toList_eq_keys :
```
or
```suggestion
theorem map_fst_toList_eq_keys :
```

File: src/Std/Classes/Ord.lean [hunk 6]
```diff
@@ -276,6 +276,28 @@ theorem compare_beq_iff_eq {a b : α} : cmp a b == .eq ↔ a = b :=
 
 end LawfulEq
 
+section LawfulBEq
+
+/--
+A typeclass for comparison functions satisfying `cmp a b = .eq` if and only if the boolean equality
+`a == b` holds.
+-/
+class LawfulBEqCmp {α : Type u} [BEq α] (cmp : α → α → Ordering) : Prop where
```
Comment (TwoFX) [inline src/Std/Classes/Ord.lean:285]: Might be nice to note in the docstring the relationship to the very similarly named `LawfulEqCmp`.

File: src/Std/Data/DTreeMap/Internal/Lemmas.lean (hunk 1 above)
Comment (datokrat) [reply src/Std/Data/DTreeMap/Internal/Lemmas.lean:1517]: Yes and yes, it's definitionally equivalent but using `compare` is the better formulation. :+1:

**Review by TwoFX — APPROVED** [review]
